US08110575B2
(6-chloro-pyrimidin-4-yl)-(5-fluoro-2,3-dihydro-indol-1-yl)-methanone
0.92 g (4.9 mmol) 6-chloro-pyrimidine-4-carboxylic acid chloride in 40 mL DCM were cooled in an ice/acetone bath and mixed with 0.67 g (4.9 mmol) 5-fluoro-2,3-dihydro-1H-indole. Another 5 mL (5.0 mmol) of a 1N aqueous sodium hydroxide solution were added dropwise and the mixture was stirred for 1 h with cooling. Then 50 mL of a saturated sodium hydrogen carbonate solution were added and the mixture was stirred for a further 10 min. The organic phase was separated off, extracted with 1N aqueous hydrochloric acid solution and with water, dried and evaporated down.

reactant | 6-chloro-pyrimidine-4-carboxylic acid chloride | 4.9 mmol, 0.92 g | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | 5-fluoro-2,3-dihydro-1H-indole | 4.9 mmol, 0.67 g | FC=1C=C2CCNC2=CC1 | C8H8FN
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (6-chloro-pyrimidin-4-yl)-(5-fluoro-2,3-dihydro-indol-1-yl)-methanone | ClC1=CC(=NC=N1)C(=O)N1CCC2=CC(=CC=C12)F | C13H9ClFN3O
